US07786046B2
3.1) Ethyl (4-fluoro-2-trifluoromethylbenzoylamino)acetate
30.7 g (0.22 mol) of ethyl glycinate hydrochloride were suspended in CH2Cl2. At 0° C., 86.3 g (0.854 mol) of triethylamin and 50 g (0.22 mol) of 2-trifluoromethyl-4-fluorobenzoylchlorid dissolved in 250 ml of CH2Cl2 were successively added dropwise. After 48 h at RT, the solution was washed and dried, and the solvent was removed. This gave 62.2 g (97% of theory) of the title compound as a colorless solid.

reactant | ethyl glycinate hydrochloride | 0.22 mol, 30.7 g | Cl.NCC(=O)OCC
reactant | triethylamin | 0.854 mol, 86.3 g | C(C)N(CC)CC | C6H15N
reactant | 2-trifluoromethyl-4-fluorobenzoylchlorid | 0.22 mol, 50 g | FC(C1=C(C(=O)Cl)C=CC(=C1)F)(F)F | C8H3ClF4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
product | Ethyl (4-fluoro-2-trifluoromethylbenzoylamino)acetate | FC1=CC(=C(C(=O)NCC(=O)OCC)C=C1)C(F)(F)F | C12H11F4NO3
